US09102632B2
To 360 mg (1.17 mM) of 3-[(4-chlorobenzyl)thio]-1-propylpyrazin-2(1H)-one and 107.7 mg (1.28 mM) of sodium hydrogenocarbonate in 2 ml of tetrahydrofurane were added 2.9 g (4.7 mM) of oxone in 2 ml of water. The reaction mixture was stirred for 3 h at room temperature. Water was added and the aqueous layer was extracted with ethyle acetate. The organic layer was separated and washed with water, dried on anhydrous sodium sulfate and evaporated under vacuum. The residue was taken up in diisopropyle oxide, filtered and washed with diisopropyle oxide, to give 90 mg of 3-[(4-chlorobenzyl)sulfonyl]-1-propylpyrazin-2(1H)-one. Yield: 23%.

reactant | 3-[(4-chlorobenzyl)thio]-1-propylpyrazin-2(1H)-one | 1.17 mM, 360 mg | ClC1=CC=C(CSC=2C(N(C=CN2)CCC)=O)C=C1 | C14H15ClN2OS
reactant | sodium | 1.28 mM, 107.7 mg | [Na] | Na
reactant | oxone | 4.7 mM, 2.9 g | OOS(=O)[O-].[K+]
reactant | water | 2 ml | O | H2O
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
product | 3-[(4-chlorobenzyl)sulfonyl]-1-propylpyrazin-2(1H)-one | 90 mg, Yield: 23% | ClC1=CC=C(CS(=O)(=O)C=2C(N(C=CN2)CCC)=O)C=C1 | C14H15ClN2O3S
